data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_478191_0,[C:1]([N:2]([C:3]([N:4]([H:8])[H:9])=[C:6]([H:14])[H:15])[C:5](=[O:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:2]([C:3]([C:5](=[O:7])[H:10])=[C:6]([H:14])[H:15])[N:4]([H:8])[H:9])([H:11])([H:12])[H:13],60.8486749999993
MR_458760_0,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])([C:5]([O:8][H:12])=[O:9])[O:10][H:11])(=[O:7])[H:13]>>[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])=[O:10])([C:5]([O:8][H:12])=[O:9])([O:7][H:11])[H:13],69.00805750005134
MR_496609_1,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])[H:8])(/[C:4]([N:5]([H:9])[H:10])=[C:7](/[N:6]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1](=[C:4]([N:5]([H:9])[H:10])[C:7]([N:3]([C:2]([H:16])([H:17])[H:18])[H:8])([N:6]([H:11])[H:12])[H:15])([H:13])[H:14],65.39993249999398
MR_525446_0,[C@:1]([C:2]([O:7][H:8])([H:13])[H:14])([N:4]([O:6][C:3]([H:15])([H:16])[H:17])[H:9])([N:5]([H:11])[H:12])[H:10]>>[C@@:1]([N:4]([C:2]([O:7][H:8])([H:13])[H:14])[H:9])([N:5]([H:11])[H:12])([O:6][C:3]([H:15])([H:16])[H:17])[H:10],63.190505000007846
MR_606802_1,[C:1]([N:4](/[C:6](=[C:7](\[C:3]([H:20])([H:21])[H:22])[N:5]([C:2]([H:17])([H:18])[H:19])[H:11])[O:9][H:10])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:4](/[C:7]([C:3]([H:20])([H:21])[H:22])=[C:6](/[N:5]([C:2]([H:17])([H:18])[H:19])[H:11])[O:9][H:10])[N:8]([H:12])[H:13])([H:14])([H:15])[H:16],51.620660000041454
MR_226334_0,[C:1](/[C:2](=[C:4](\[O:6][H:8])[H:10])[O:5][C:3](=[O:7])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:2]1([C:3](=[O:7])[H:9])[C:4]([O:6][H:8])([H:10])[O:5]1)([H:11])([H:12])[H:13],59.677132500032286
MR_263909_0,[C:1]([C:4]1([C:3]([O:6][H:10])=[O:7])[C:5]([C:2]([H:15])([H:16])[H:17])([H:11])[N:8]1[H:9])([H:12])([H:13])[H:14]>>[C:1]([C:4](=[C:3]([O:6][H:10])[O:7][H:9])/[N:8]=[C:5](/[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],63.041159999992544
MR_283492_0,[C:1](/[C:2](=[C:5](/[N:3]([H:9])[H:10])[H:14])[O:6][H:8])([C:4](=[O:7])[H:11])([H:12])[H:13]>>[C:1](=[C:2]([C:5]([N:3]([H:9])[H:10])([C:4](=[O:7])[H:11])[H:14])[O:6][H:8])([H:12])[H:13],50.70764750002809
MR_127860_1,[C:1]([C:2]([C:6]1([O:9][H:10])[C:3]([H:14])([H:15])[C:5]([H:18])([H:19])[C:4]1([H:16])[H:17])([H:12])[H:13])(=[O:7])[O:8][H:11]>>[C:1]1([O:7][H:10])([O:8][H:11])[C:2]([H:12])([H:13])[C:6](=[O:9])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:3]1([H:14])[H:15],60.00217749999635
MR_659288_0,[C:1]1([C:5]([C:4]([H:19])([H:20])[H:21])=[C:6]([N:7]([H:12])[H:13])[N:8]([H:11])[H:14])([O:9][H:10])[C:2]([H:15])([H:16])[C:3]1([H:17])[H:18]>>[C:1](\[C:2]([C:3]([H:14])([H:17])[H:18])([H:15])[H:16])(=[C:5]([C:4]([H:19])([H:20])[H:21])\[C:6]([N:7]([H:12])[H:13])=[N:8]\[H:11])[O:9][H:10],33.81220999998888
MR_653043_0,[C:1]([N:4]([C:3]([H:14])([H:15])[H:16])[O:7][H:8])([O:5][O:6][C:2]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:1]([O:5][N:4]([C:3]([H:14])([H:15])[H:16])[O:7][H:8])([O:6][C:2]([H:11])([H:12])[H:13])([H:9])[H:10],62.11371500001562
MR_20831_1,[C:1]1([O:6][C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])[C:2]([H:8])([H:9])[O:5]1>>[C:1]1([O:6][C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])[C:2]([H:8])([H:9])[O:5]1,64.62245999995943
MR_206411_1,[C:1]([C:4]12[N:2]([H:9])[C:3]1([O:6][H:8])[N:7]=[C:5]2[H:10])([H:11])([H:12])[H:13]>>[C:1]([c:4]1[n:2]([H:9])[c:3]([O:6][H:8])[n:7][c:5]1[H:10])([H:11])([H:12])[H:13],13.695187500022143
MR_287722_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])([N:5]([H:11])[H:12])([O:7][H:9])/[N:8]=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13]>>[C:1](\[N:5]([H:11])[H:12])([O:7][H:9])=[N:8]\[C:6]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])[H:13],45.03693000000624
MR_686062_0,[C:1](/[N:8]=[C:3]([C:4](/[C:2]([H:15])([H:16])[H:17])=[C:5](/[O:7][H:10])[H:11])\[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:3]([O:6][H:9])=[C:4]([C:2]([H:15])([H:16])[H:17])[C@@:5]1([O:7][H:10])[H:11])([H:12])([H:13])[H:14],39.67368749999281
MR_651216_2,[C:1]([C:2](/[C:5](=[C:4](\[N:3]([H:9])[H:10])[H:13])[H:14])([H:11])[H:12])([O:6][H:8])=[O:7]>>[C:1]1([O:6][H:8])([O:7][H:9])[C:2]([H:11])([H:12])[C:5]([H:14])=[C:4]([H:13])[N:3]1[H:10],50.92727249997296
MR_270341_0,[C:1](/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:5][N:3]([O:6][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:7]([N:3]([O:6][H:8])[H:9])[C:4]([C:2]([H:13])([H:14])[H:15])=[O:5])([H:10])([H:11])[H:12],35.37593999996446
MR_316663_1,[C:1](/[C:4]([N:3]([O:6][H:8])[O:7][H:9])=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([O:7][H:9])[N:3]([O:6][H:8])[C:5]1([C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13],38.15011750002285
MR_329864_0,[C:1]1([H:9])([H:10])[N:5]([C:2]([H:11])([H:12])[H:13])[O:8][C:6]([C:3]([H:14])([H:15])[H:16])=[C:7]1[C:4]([H:17])([H:18])[H:19]>>[C:1](=[C:7]([C:4]([H:17])([H:18])[H:19])[C@@:6]1([C:3]([H:14])([H:15])[H:16])[N:5]([C:2]([H:11])([H:12])[H:13])[O:8]1)([H:9])[H:10],68.31906250004309
